US04808729
Diethyl 5-(hydroxymethyl)-1,3-oxathiolane-2,2-dipropanoate
The title compound was prepared according to the procedure of Example 1 using 3-mercapto-1,2-propanediol (10.8 g, 0.1 mol), diethyl 4-oxopimelate (23 g, 0.1 mol) and boron trifluoride etherate (2.5 ml) in methylene chloride (300 ml). The crude product was chromatographed on silica gel using 40% ethyl acetate/hexane as eluent to give 14.5 g (45%) of product.

reactant | 3-mercapto-1,2-propanediol | 0.1 mol, 10.8 g | SCC(CO)O | C3H8O2S
reactant | diethyl 4-oxopimelate | 0.1 mol, 23 g | O=C(CCC(=O)OCC)CCC(=O)OCC | C11H18O5
reactant | boron trifluoride etherate | 2.5 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | Diethyl 5-(hydroxymethyl)-1,3-oxathiolane-2,2-dipropanoate | OCC1CSC(O1)(CCC(=O)OCC)CCC(=O)OCC | C14H24O6S
